US05536750
Step A: N-[2(S)-(2(R)-(t-butoxycarbonylamino-3-triphenylmethyl-mercaptopropylamino)-3(S)-methylpentyl]-N-methyl-isoleucyl-methionine
N-[2(S)-(2(R)-(t-butoxycarbonylamino-3-triphenylmethyl mercaptopropylamino)-3(S)-methylpentyl]-N-methyl-isoleucyl-methionine methyl ester (0.19 g, 0.232 mmol, prepared as an intermediate in Example 5) was dissolved in MeOH (4 mL), treated with 1N NaOH soln (0.927 mL, 0.927 mmol), and stirred for 3.5 h at ambient temperature. The reaction mixture was concentrated, the residue dissolved in H2O (20 mL), neutralized with 1N HCl (0.927 mL, 0.927 mmol), and extracted with EtOAc (3×20 mL). The organic layers were combined, washed with brine, and dried (Na2SO4). Filtration and concentration to dryness gave 0.18g (96%) of the title compound which was used without further purification.

reactant | 2(S)-(2(R)-(t-butoxycarbonylamino-3-triphenylmethyl mercaptopropylamino)-3(S)-methylpentyl]-N-methyl-isoleucyl-methionine methyl ester | COC([C@@H](NC([C@@](NC)([C@@H](C)CC)C[C@H]([C@H](CC)C)N(CCC(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S)NC(=O)OC(C)(C)C)=O)CCSC)=O | C46H68N4O5S2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 0.927 mmol, 1N, 0.927 mL | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 2(S)-(2(R)-(t-butoxycarbonylamino-3-triphenylmethyl-mercaptopropylamino)-3(S)-methylpentyl]-N-methyl-isoleucyl-methionine | 0.18g, 96% | C(C)(C)(C)OC(=O)NN([C@H](C[C@](NC)([C@@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)O)[C@H](CC)C)CCC(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S | C45H66N4O5S2
